US08138175B2
1-(3-Chloro-phenyl)-4-[(S)-3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-propyl]-[1,4]diazepan-5-one
In analogy to the procedure described in example 2, (S)-2-[4-(3-chloro-phenyl)-7-oxo-[1,4]diazepan-1-yl]-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-butyric acid methyl ester and LiBH4 gave the title compound in 77% yield as a white foam. MS: 421.2 (MH+, 1Cl).

reactant | (S)-2-[4-(3-chloro-phenyl)-7-oxo-[1,4]diazepan-1-yl]-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-butyric acid methyl ester | COC([C@H](CCN1C[C@H](C2(CC2)CC1)O)N1CCN(CCC1=O)C1=CC(=CC=C1)Cl)=O | C23H32ClN3O4
reactant | LiBH4 | [Li+].[BH4-]
product | 1-(3-Chloro-phenyl)-4-[(S)-3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-propyl]-[1,4]diazepan-5-one | 77% yield | ClC=1C=C(C=CC1)N1CCN(C(CC1)=O)[C@@H](CCN1C[C@H](C2(CC2)CC1)O)CO | C22H32ClN3O3
